US08871767B2
6-bromo-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine
A stirred mixture of 2-amino-5-bromopyridine (0.259 g, 1.5 mmol) and 2-bromo-1-[3-nitro-4-(trifluoromethyl)phenyl]ethanone (0.468 g, 1.5 mmol) in acetonitrile (3 mL) is heated at 100° C. for 18 hr. The mixture is concentrated to give the title compound (618 mg), which is used without further purification. LCMS m/z=388.3 [M+H]+, tR=2.94 min.

reactant | 2-amino-5-bromopyridine | 1.5 mmol, 0.259 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 2-bromo-1-[3-nitro-4-(trifluoromethyl)phenyl]ethanone | 1.5 mmol, 0.468 g | BrCC(=O)C1=CC(=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C9H5BrF3NO3
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 6-bromo-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine | 618 mg | BrC=1C=CC=2N(C1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)[N+](=O)[O-] | C14H7BrF3N3O2
